US07566781B2
Methyl 4-[(diethoxyphosphoryl)(hydroxy)methyl]benzenecarboxylate
Diethyl phosphite (16 mL) was added to methyl 4-formylbenzenecarboxylate (10.2 g) and potassium fluoride (18.0 g), and stirred at room temperature for 30 minutes. The reaction liquid was diluted with chloroform (200 mL) added thereto, and filtrated through Celite. The solvent was evaporated off under reduced pressure from the filtrate, and the resulting solid was washed with diethyl ether to obtain the entitled compound (14.1 g) as a colorless solid.

reactant | Diethyl phosphite | 16 mL | P(OCC)(OCC)[O-]
reactant | methyl 4-formylbenzenecarboxylate | 10.2 g | C(=O)C1=CC=C(C=C1)C(=O)OC | C9H8O3
reactant | potassium fluoride | 18.0 g | [F-].[K+]
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-[(diethoxyphosphoryl)(hydroxy)methyl]benzenecarboxylate | 14.1 g | C(C)OP(=O)(OCC)C(C1=CC=C(C=C1)C(=O)OC)O | C13H19O6P
